US09403798B2
tert-Butyl 3-(4-fluorophenoxy)azetidine-1-carboxylate
An N,N-dimethylformamide solution (1.5 mL) of tert-butyl 3-(tosyloxy)azetidine-1-carboxylate (164 mg, 0.50 mmol), 4-fluorophenol (67.3 mg, 0.60 mmol), and cesium carbonate (116 mg, 0.60 mmol) was stirred at 80° C. for 16 hours. After completion of the reaction, water was added to the reaction solution and extraction with ethyl acetate from the resultant mixture was performed three times. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (97.4 mg, yield 73%).

reactant | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
reactant | tert-butyl 3-(tosyloxy)azetidine-1-carboxylate | 0.50 mmol, 164 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OC1CN(C1)C(=O)OC(C)(C)C | C15H21NO5S
reactant | 4-fluorophenol | 0.60 mmol, 67.3 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | cesium carbonate | 0.60 mmol, 116 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-Butyl 3-(4-fluorophenoxy)azetidine-1-carboxylate | 97.4 mg, yield 73% | FC1=CC=C(OC2CN(C2)C(=O)OC(C)(C)C)C=C1 | C14H18FNO3
